US06924400B2
(e) 1-(3-Ethyl-4-hydroxyphenyl)propan-1-one
In a manner similar to that of Example 1(m), starting with 6.8 g (23 mmol) of 1-[4-(tert-butyldimethylsilanyloxy)-3-ethylphenyl]propan-1-one in 50 ml of THF, 4.1 g (100%) of the expected product are obtained in the form of a beige-colored oil.

reactant | 1-[4-(tert-butyldimethylsilanyloxy)-3-ethylphenyl]propan-1-one | 23 mmol, 6.8 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(CC)=O)CC | C17H28O2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(3-Ethyl-4-hydroxyphenyl)propan-1-one | 4.1 g, 100% | C(C)C=1C=C(C=CC1O)C(CC)=O | C11H14O2
